US07704995B2
3-amino-6-bromopyrazine-2-carboxylic acid (3.63 g, 16.65 mmol), HATU (9.49 g, 25.0 mg) and DIEA (4.35 mL, 25.0 mmol) was added to a solution of (s)-3-amino-piperidine-1-carboxylic acid tert-butyl ester (4.00 g, 19.97 mmol, commercially available from Astatech or Arch Corporation). It was stirred at room temperature overnight. The reaction mixture was poured into water (200 mL), and extracted with ethyl acetate (2×150 mL) then dried over anhydrous sodium sulfate and filteration, concentration and purified by column chromatography to give 1,1-dimethylethyl (3S)-3-{[(3-amino-6-bromopyrazin-2-yl)carbonyl]amino}piperidine-1-carboxylate 5.00 g (75.0% yield): MS (EI) for C15H22BrN5O3: 401.12 (MH+).

reactant | 3-amino-6-bromopyrazine-2-carboxylic acid | 16.65 mmol, 3.63 g | NC=1C(=NC(=CN1)Br)C(=O)O | C5H4BrN3O2
reactant | HATU | 9.49 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 25.0 mmol, 4.35 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (s)-3-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)N | C10H20N2O2
solvent | water | 200 mL | O | H2O
product | 1,1-dimethylethyl (3S)-3-{[(3-amino-6-bromopyrazin-2-yl)carbonyl]amino}piperidine-1-carboxylate | 5.00 g, 75.0% yield | NC=1C(=NC(=CN1)Br)C(=O)N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C15H22BrN5O3
